US07816361B2
Step 2: Preparation of 4-(3-Furan-2-yl-4,4-dimethyl-5-oxo-4,5-dihydro-pyrazol-1-yl)-N-(1,2,2,6,6-pentamethyl-piperidin-4-yl)-benzamide
3-Furan-2-yl-2,2-dimethyl-3-oxo-propionic acid ethyl ester (53 mg) and 4-Hydrazino-N-(1,2,2,6,6-pentamethyl-piperidin-4-yl)-benzamide (85 mg) in 0.5 ml of acetic acid were heated up at 65° C. for 2 h. Concentration in vacuo and purification by HPLC gave the expected product (MH+: 451.4)

reactant | 3-Furan-2-yl-2,2-dimethyl-3-oxo-propionic acid ethyl ester | 53 mg | C(C)OC(C(C(=O)C=1OC=CC1)(C)C)=O | C11H14O4
reactant | 4-Hydrazino-N-(1,2,2,6,6-pentamethyl-piperidin-4-yl)-benzamide | 85 mg | N(N)C1=CC=C(C(=O)NC2CC(N(C(C2)(C)C)C)(C)C)C=C1 | C17H28N4O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 4-(3-Furan-2-yl-4,4-dimethyl-5-oxo-4,5-dihydro-pyrazol-1-yl)-N-(1,2,2,6,6-pentamethyl-piperidin-4-yl)-benzamide | O1C(=CC=C1)C1=NN(C(C1(C)C)=O)C1=CC=C(C(=O)NC2CC(N(C(C2)(C)C)C)(C)C)C=C1 | C26H34N4O3
